US08138188B2
(5-Methoxypyridin-2-yl)methanol
Trifluoroacetic anhydride (28.2 mL, 203 mmol) was added dropwise to an ice cooled solution of the product from preparation 20 (˜135 mmol) in dichloromethane (500 mL), the mixture was allowed to warm to room temperature and stirred overnight. Tic analysis indicated still largely starting material so a further portion of trifluoroacetic anhydride (15 mL, 108 mmol) was added dropwise and the mixture was allowed to stir for a further 27 hours. The reaction was quenched by the cautious addition of methanol (250 mL) and left to stir for 30 minutes before being concentrated in vacuo. 2.5 M sodium hydroxide (100 mL) was then added cautiously and the mixture was extracted with dichloromethane (4×100 mL). The combined organic extracts were dried (MgSO4) and evaporated to give the desired product (12 g, 64%) contaminated with recovered starting material (˜15 mol %). 1H NMR (CDCl3, 400 MHz) δ 3.80 (3H, s), 4.40 (1H, br), 4.66 (2H, s), 7.16 (1H, dd), 7.20 (1H, d), 8.17 (1H, d).

reactant | Trifluoroacetic anhydride | 203 mmol, 28.2 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Tic | N1[C@@H](CC2=CC=CC=C2C1)C(=O)O | C10H11NO2
reactant | trifluoroacetic anhydride | 108 mmol, 15 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | (5-Methoxypyridin-2-yl)methanol | 12 g, 64% | COC=1C=CC(=NC1)CO | C7H9NO2
